US08022206B2
4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A mixture of 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-6-ylamine (100.0 mg, 0.2381 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (88.3 mg, 0.286 mmol), Pd(PPh3)4 (10 mg, 0.01 mmol), potassium carbonate (98.7 mg, 0.714 mmol) and 4:1 dioxane:water (4 mL) was microwaved at 100° C. for 2 h. The solution was concentrated in vacuo, and dry-loaded onto silica gel for column chromatography, eluted with 2-5% MeOH in DCM. Fractions containing the product were concentrated in vacuo to afford the title compound as an off-white solid. 1H NMR (CD3OD, 400 MHz): δ=1.49 (s, 9H), 1.88 (d, J=6.8 Hz, 3H), 2.48 (d, J=1.5 Hz, 2H), 3.59-3.69 (m, 2H), 4.11 (br, s, 2H), 6.26 (br, s, 1H), 6.50 (q, J=6.9 Hz, 1H), 7.19-7.25 (m, 1H), 7.40 (dd, J=9.0, 4.9 Hz, 1H), 7.64 (s, 1H), 8.20 (s, 1H). MS (ES+): m/z 522.14 [MH+]. HPLC: tR=3.51 min (ZQ3, polar—5 min).

reactant | 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-6-ylamine | 0.2381 mmol, 100.0 mg | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.286 mmol, 88.3 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | potassium carbonate | 0.714 mmol, 98.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.01 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 4 mL | O | H2O
product | 4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C25H26Cl2FN3O4
